US07262185B2
A mixture of potassium thiocyanate (29.4 g), dihydroxyacetone dimer (18.1 g), and isopropylamine hydrochloride (25.0 g) was added by portions to a mixed solution of acetic acid (21.8 ml) and 1-butanol (145 ml). The mixture was stirred for 7 days at room temperature, and water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained solid was washed with ethyl acetate, to give 5-hydroxymethyl-1-isopropyl-2-mercaptoimidazole (16.0 g) as colorless crystals.

reactant | potassium thiocyanate | 29.4 g | [S-]C#N.[K+]
reactant | dihydroxyacetone dimer | 18.1 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | isopropylamine hydrochloride | 25.0 g | Cl.C(C)(C)N
reactant | acetic acid | 21.8 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | 1-butanol | 145 ml | C(CCC)O | C4H10O
product | 5-hydroxymethyl-1-isopropyl-2-mercaptoimidazole | 16.0 g | OCC1=CN=C(N1C(C)C)S | C7H12N2OS
